US04000151
In the manner given in Example 1, 2-chloro-6-nitro-4-(o-chlorophenyl)quinoline is reacted at reflux with hydrazine hydrate to give 6-nitro-4-(o-chlorophenyl)-2-hydrazinoquinoline

reactant | 2-chloro-6-nitro-4-(o-chlorophenyl)quinoline | ClC1=NC2=CC=C(C=C2C(=C1)C1=C(C=CC=C1)Cl)[N+](=O)[O-] | C15H8Cl2N2O2
reactant | hydrazine hydrate | O.NN
product | 6-nitro-4-(o-chlorophenyl)-2-hydrazinoquinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1)Cl | C15H11ClN4O2
